US07067517B2
3,3-Dimethyl-4-{2-[4-(methyl-phenyl-carbamoyloxy)-phenyl]-ethylcarbamoyl}-butyric acid
A solution of 3,3-dimethylglutaric anhydride (0.3 mmol), diisopropylethylamine (0.30 mmol) and N-methyl-N-phenyl-carbamic acid 4-(2-amino-ethyl)phenyl ester as its TFA salt (0.3 mmol) in CH2Cl2 (3 mL) was stirred 1 h at rt. The mixture was washed with water and brine, dried and evaporated to give the title compound in 95% yield as an oil.

reactant | 3,3-dimethylglutaric anhydride | 0.3 mmol | CC1(CC(=O)OC(C1)=O)C | C7H10O3
reactant | diisopropylethylamine | 0.30 mmol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-methyl-N-phenyl-carbamic acid 4-(2-amino-ethyl)phenyl ester | NCCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C16H18N2O2
reactant | TFA | 0.3 mmol | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 3,3-Dimethyl-4-{2-[4-(methyl-phenyl-carbamoyloxy)-phenyl]-ethylcarbamoyl}-butyric acid | 95% yield | CC(CC(=O)O)(CC(NCCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O)=O)C | C23H28N2O5
